US07947686B2
Step 2. Preparation of 2-nitro-4-pyrrolidin-1-ylmethyl-benzoic acid
A mixture of 2-nitro-4-pyrrolidin-1-ylmethyl-benzoic acid methyl ester (1.1 g, 4.16 mmol) in methanol (35 mL) and 2N sodium hydroxide (4.16 mL, 8.32 mmol, 2 eq.) was stirred at room temperature for 7 hours, then neutralized with 2N hydrochloric acid (4.16 mL, 8.32 mmol) and evaporated to dryness affording a mixture of the title compound and sodium chloride that was used as such for the next step.

reactant | 2-nitro-4-pyrrolidin-1-ylmethyl-benzoic acid methyl ester | 4.16 mmol, 1.1 g | COC(C1=C(C=C(C=C1)CN1CCCC1)[N+](=O)[O-])=O | C13H16N2O4
reactant | sodium hydroxide | 8.32 mmol, 2N, 4.16 mL, 2 eq. | [OH-].[Na+]
reactant | hydrochloric acid | 8.32 mmol, 2N, 4.16 mL | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 35 mL | CO | CH4O
product | 2-nitro-4-pyrrolidin-1-ylmethyl-benzoic acid | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)CN1CCCC1 | C12H14N2O4
